US06953787B2
N-Trifluoroacetyl-8-chloro-7-hydroxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-8-chloro-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (48 mg, 0.15 mmol) in dichloromethane (2 mL) was treated with BBr3 (0.30 mL of a 1.0M solution in CH2Cl2, 0.30 mmol) and stirred overnight at 20 C. The excess BBr3 was quenched with water and the resulting mixture diluted with ether (20 mL), washed with Na2CO3 (10 mL) and brine (10 mL), dried with Na2SO4 and concentrated. Flash chromatography (15% EtOAc in hexane, silica) resulted in 24 mg of a white solid. MS calculated for C13H13ClF3NO2+H: 308, observed: 308.

reactant | N-trifluoroacetyl-8-chloro-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.15 mmol, 48 mg | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)OC)Cl)(F)F | C14H15ClF3NO2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-Trifluoroacetyl-8-chloro-7-hydroxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 24 mg | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)O)Cl)(F)F | C13H13ClF3NO2
